US04228100
A mixture of THPC (9.53 g, 0.05 mol), 1,3-dimethylurea (17.62 g, 0.20 mol), and toluene (75 ml) was heated to reflux in an apparatus fitted with a Dean-Stark trap for azeotropic removal of the water. The mixture was held at reflux until the evolution of water ceased; 3.7 ml (0.20 mol) was collected in 1 hr., and no more passed over in the next hr. The product, which had separated during the reaction as a mass of white solids, was broken up, triturated under toluene, filtered, and dried, giving 22.88 g (97.2%) of tetrakis(1,3-dimethylureidomethyl)phosphonium chloride (I, R=R'=CH3, R"=H, X=Cl) as a white crystalline solid, mp 187°-189° C. dec. Two recrystallizations from 2-propanol (8 ml/g), followed by drying under vacuum for 2 hr at 56° C. (acetone), gave a 1:1 solvate of the product and 2-propanol, mp 194°-194.5° C. dec.

reactant | THPC | 0.05 mol, 9.53 g | C(O)[P+](CO)(CO)CO.[Cl-]
reactant | 1,3-dimethylurea | 0.20 mol, 17.62 g | CNC(=O)NC | C3H8N2O
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | tetrakis(1,3-dimethylureidomethyl)phosphonium chloride | 22.88 g, 97.2% | [Cl-].CN(C(=O)NC)C[P+](CN(C(=O)NC)C)(CN(C(=O)NC)C)CN(C(=O)NC)C | InChI=1S/C16H35N8O4P.ClH/c1-17-13(25)21(5)9-29(10-22(6)14(26)18-2,11-23(7)15(27)19-3)12-24(8)16(28)20-4;/h9-12H2,1-8H3,(H3-,17,18,19,20,25,26,27,28);1H
